US04592906
Sodium hydride (1.9 g of an 80% dispersion in oil) was added portionwise with stirring over 0.5 hour to 4-dimethylaminobenzaldehyde (7.46 g) in 2-octyl acetate (153 g) at 25° C. The temperature was raised until a steady evolution of hydrogen began (100° C.) and held at this temperature for eight hours. The cooled mixture was treated with glacial acetic acid (4 ml) and then water (50 ml) added. The upper layer was separated, washed with 10% sodium carbonate solution, water, and dried (MgSO4). The excess of 2-octyl acetate was removed by distillation at 15 mm pressure, and the residue fractionated under high vacuum, yielding 7.3 g 2-octyl 4-dimethylaminocinnamate as a pale amber viscous oil, b.p. 194°-200° C./0.25 mm. After freezing it remelted at -11° C.

reactant | Sodium hydride | [H-].[Na+]
reactant | 4-dimethylaminobenzaldehyde | 7.46 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | hydrogen | [H][H] | H2
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
reactant | 2-octyl acetate | 153 g | C(C)(=O)OC(C)CCCCCC | C10H20O2
solvent | water | 50 ml | O | H2O
product | 2-octyl 4-dimethylaminocinnamate | 7.3 g | CN(C1=CC=C(C=CC(=O)OC(C)CCCCCC)C=C1)C | C19H29NO2
